US09403816B2
6-Bromo-3-(pyridin-3-yl)quinoline-2,4(1H, 3H)-dione
Into a 100-mL round-bottom flask, was placed a solution of methyl 5-bromo-2-[2-(pyridin-3-yl)acetamido]benzoate (3 g, 7.73 mmol, Intermediate 10: step a) and MeONa (11.7 mL, 31 mmol, 2.64 M in MeOH) in tetrahydrofuran (30 mL). The resulting solution was stirred overnight at 20° C. The solids were collected by filtration and washed with water (3×5 mL). The solids were dried under vacuum to provide the title compound as a white solid.

reactant | methyl 5-bromo-2-[2-(pyridin-3-yl)acetamido]benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(CC=1C=NC=CC1)=O | C15H13BrN2O3
reactant | MeONa | 31 mmol, 2.64 M, 11.7 mL | CO[Na]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-Bromo-3-(pyridin-3-yl)quinoline-2,4(1H, 3H)-dione | BrC=1C=C2C(C(C(NC2=CC1)=O)C=1C=NC=CC1)=O | C14H9BrN2O2
